US08049015B2
To 4-bromo-3-formyl-benzonitrile (2.42 g, 11.5 mmol) in MeOH (450 mL) was added benzylamine (1.88 mL, 17.3 mmol) and sodium cyanoborohydride (1.09 g, 17.3 mmol). Acetic acid (0.99 mL, 17.3 mmol) was added dropwise, and the reaction was stirred at room temperature overnight. The mixture was quenched with H2O and extracted with EtOAc. The combined organic layers were dried, concentrated, and purified by silica gel chromatography (0-30% EtOAc in hexanes) to give 3-(benzylamino-methyl)-4-bromo-benzonitrile.

reactant | 4-bromo-3-formyl-benzonitrile | 11.5 mmol, 2.42 g | BrC1=C(C=C(C#N)C=C1)C=O | C8H4BrNO
reactant | benzylamine | 17.3 mmol, 1.88 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 17.3 mmol, 1.09 g | C(#N)[BH3-].[Na+]
reactant | Acetic acid | 17.3 mmol, 0.99 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 450 mL | CO | CH4O
product | 3-(benzylamino-methyl)-4-bromo-benzonitrile | C(C1=CC=CC=C1)NCC=1C=C(C#N)C=CC1Br | C15H13BrN2
